US05006658
1,8-Octanediol (14.62 g, 0.1 mole) was dissolved in benzene (200 mls) and 12.5 mls of conc (46.48%) aqueous HBr added. The mixture was then heated overnight at reflux whilst removing the water using a Dean & Stark apparatus. About 12 mls of water were rapidly removed within the first 4 hours. The crude mixture was washed with 6N NaOH (100 mls), 10% aq HCl (100 mls), water (2×200 mls) and brine (150 mls). The solvent was removed to give a colourless liquid, (14.8 g, 71%) 1-bromo-octan-8-ol.

reactant | 1,8-Octanediol | 0.1 mole, 14.62 g | C(CCCCCCCO)O | C8H18O2
reactant | HBr | Br | BrH
solvent | benzene | 200 mls | C1=CC=CC=C1 | C6H6
product | 1-bromo-octan-8-ol | 14.8 g, 71% | BrCCCCCCCCO | C8H17BrO
